US04760086
A mixture of 3-hydroxy-5-methylthio-N-(2,2-diphenylethenyl)-benzo[b]thiophene-2-carboxamide (0.42 g, 0.0010 moles) and 30% H2O2 (0.80 ml) in acetic acid (10 ml) was stirred at 75° for 30 minutes. The reaction was cooled to 0° and the yellow precipitate was filtered, acetic acid washed and dried under vacuum, to afford 0.38 g (88%) of 3-hydroxy-N-(2,2-diphenyl)ethenyl-5-methylsulfinylbenzo[b]thiophene-2-carboxamide. MS gave Mol ion at 433.

reactant | 3-hydroxy-5-methylthio-N-(2,2-diphenylethenyl)-benzo[b]thiophene-2-carboxamide | 0.0010 moles, 0.42 g | OC=1C2=C(SC1C(=O)NC=C(C1=CC=CC=C1)C1=CC=CC=C1)C=CC(=C2)SC | C24H19NO2S2
reactant | H2O2 | 0.80 ml | OO | H2O2
solvent | acetic acid | 10 ml | C(C)(=O)O | C2H4O2
product | 3-hydroxy-N-(2,2-diphenyl)ethenyl-5-methylsulfinylbenzo[b]thiophene-2-carboxamide | 0.38 g, 88% | OC=1C2=C(SC1C(=O)NC=C(C1=CC=CC=C1)C1=CC=CC=C1)C=CC(=C2)S(=O)C | C24H19NO3S2
